US07557114B2
(c) 5-Amino-6-fluoro-isoindole-1,3-dione
To a suspension of 99.9 mmol 5-fluoro-6-nitro-isoindole-1,3-dione in 400 ml concentrated hydrochloric acid was added 350 mmol tin(II) chloride dehydrate and the resulting mixture was heated at 60° C. for 2 h. The reaction mixture was then poured onto ice-water and then 28% aq sodium hydroxide was added with stirring until a suspension was formed. The crystals were collected by filtration and dried in vacuo to afford the title compound as a yellow solid (80% yield). MS (m/e): 179.1 ([M−H]−, 100%).

reactant | 5-fluoro-6-nitro-isoindole-1,3-dione | 99.9 mmol | FC=1C=C2C(NC(C2=CC1[N+](=O)[O-])=O)=O | C8H3FN2O4
reactant | tin(II) chloride | 350 mmol | [Sn](Cl)Cl
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 400 ml | Cl | ClH
product | 5-Amino-6-fluoro-isoindole-1,3-dione | 80% yield | NC=1C=C2C(NC(C2=CC1F)=O)=O | C8H5FN2O2
